US07321050B2
Experiment 10. 5-[2-(4-Hydroxyphenyl)ethenyl]-2-i-propyl-1,3-benzenediol (13B).
This material was prepared from 1-(3,5-dimethoxy-4-i-propylphenyl)-2-(4-methoxyphenyl)ethene and pyridine hydrochloride in 30% yield in the same way as described in example 3. 1H NMR (DMSO-d6, ppm): δ 1.22 (d, J=7.0 Hz, 6H), 3.41 (m, 1H), 6.40 (s, 2H), 6.73 (d, J=6.3 Hz, 4H), 7.33 (s, 1H), 7.41 (s, 1H), 8.98 (s, 2H), 9.51 (s, 1H).

reactant | 1-(3,5-dimethoxy-4-i-propylphenyl)-2-(4-methoxyphenyl)ethene | COC=1C=C(C=C(C1C(C)C)OC)C=CC1=CC=C(C=C1)OC | C20H24O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 5-[2-(4-Hydroxyphenyl)ethenyl]-2-i-propyl-1,3-benzenediol | 30% yield | OC1=CC=C(C=C1)C=CC=1C=C(C(=C(C1)O)C(C)C)O | C17H18O3
